* https://barbarach.com/pots-for-spice/
*
*  1---/\/\/\/---3
*        |
*        2
*
*--------------------- The Linear Potentiometer ---------------------
*
.SUBCKT pot_lin 1 2 3
* Parameters: Rt, Val
.param w=limit(1m,Val,99.999)
*
R1 1 2 {Rt*(1-(w/100))}
R2 2 3 {Rt*((w/100))}
.ENDS


*--------------------- The Audio Potentiometer ---------------------
*
* It is interesting to know that the power log. curve is a
* good fit to so called "log"-potentiometers, because most of
* them have not true logarithm dependency in reality.
*
*  RTAP is resistance at travel TAP
*  Example: Rt=10k, R=1k @ 0.5   (half way)
*           RTAP=1k, TAP=0.5
*  RTAP and TAP define a point of the curve resistance versus ratio.
.SUBCKT pot_log 1 2 3
.param w=limit(0,set,1)
*
.param pwrexp=ln(RTAP/RT)/ln(TAP)
.param ratio=w**pwrexp
*
R1 1 2 {Rt*ratio + 0.001}
R2 2 3 {Rt*(1 - ratio) + 0.001}
.ENDS
